US08138355B2
To a 100 ml three-necked flask were added 6.42 g (28.3 mmol) of 4-bromophthalic anhydride (manufactured by Tokyo Chemical Industry Co. Ltd.), 25 ml of 10% fuming sulfuric acid, and 3.60 g (14.2=mol) of iodine. The mixture was heated to 110° C. and the reaction was carried out for 4 hours. After cooling at room temperature, the reaction mixture was poured into ice to quench the reaction. After the mixture was treated with a cold 20% aqueous sodium hydroxide solution, hydrochloric acid was added to adjust the pH of the solution to 6 to 7. Insoluble matter was removed by means of a filter paper and hydrochloric acid was added portionwise to adjust the pH to 1 or lower. After the resulting slurry was stirred overnight, the formed precipitate was filtrated and dried. The resulting solid was washed with toluene and the residue was treated with a cold 20% aqueous sodium hydroxide solution and dissolved therein. The pH of the solution was adjusted to 3.5 with acetic acid and the formed precipitate was removed by filtration. After the precipitate was treated with hydrochloric acid, the precipitate was further treated with toluene and acetic anhydride to obtain 1.10 g of 4-bromo-5-iodophthalic anhydride (yield 11%).

reactant | 4-bromophthalic anhydride | 28.3 mmol, 6.42 g | BrC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3BrO3
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | iodine | 3.60 g | II | I2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 4-bromo-5-iodophthalic anhydride | 1.10 g, yield 11% | BrC=1C=C2C(C(=O)OC2=O)=CC1I | C8H2BrIO3
